Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I feel like I messed up my life"
 
Major Surgical or Invasive Procedure:
ECT treatment #1 given ___

 
History of Present Illness:
Per Dr. ___ Consultation ___ ___ "Ms. 
___ is a ___ year old woman with treatment-resistant 
depression (including ___, multiple medication trials) who 
presents to the ED with her sister and mother at the suggestion 
of her outpatient psychiatrist (Dr. ___ and PCP 
requesting admission for acute trial of ECT.

Ms. ___ has been suffering from depression since her early 
teens but her symptoms have been worse over the past 9 months. 
At that time, Ms. ___ had left her job as an ___ in 
___ for about a year prior and spent time volunteering in 
hopes of finding another job. However, when she was unable to 
find a
job, she traveled for some time, volunteered in ___ and then 
moved to ___ to live with her sister in ___. She 
stated that her state of depression started to worsen as she 
continued to remain unemployed. 

Ms. ___ describes that she feels depressed everyday 
including feelings of hopelessness, worthlessness, and guilt. 
She feels that she's incompetent in everything she does. SHe 
worries that she won't be able to find a job she doesn't hate, 
is scared about being single, and is constantly jealous of other 
people's
lives (such as their family, job, and friends). She feels 
out-of-touch and disconnected from the world. She endorses daily 
low mood but states that her sleep has been good after stopping 
Effexor. Currently, she sleeps ___ hours per night which is 
more than her baseline. Ms. ___ also endorses anhedonia, 
low daytime energy, poor-to-normal appetite without weight loss. 
She states that her concentration and memory have also been poor 
recently.

Ms. ___ endorses having daily suicidal ideations for the 
past few weeks. She states that "since ___ work, I'm 
worried that ECT won't work either, if that doesn't work then I 
should just kill myself." She states that her plan would be to 
hang herself, she has researched this online and has a rope in 
her car bought for a different purpose. She does not know if she 
would carry through with this plan but is scared by these 
thoughts. 

She underwent a ketamine trail in ___ with depressive 
symptom relief only during the infusion. She also had ___ from 
___ with little improvement in symptoms.  She was 
evaluated for ECT in ___ ___ requests 
admission to Deac 4 for ECT."
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
-Prior diagnoses: Major depressive disorder, severe, without
psychotic features.
-Hospitalizations: None prior
-Psychiatrist: Dr. ___: Dr. ___ trials: 
---Patient took Wellbutrin 300 mg in the past. She previously 
also took Zoloft 100 mg and Effexor 300 mgwhich caused restless 
leg syndrome. She also was tried on Celexa 10 mg which caused 
insomnia.
---Ketamine trial in ___ with symptom relief only during 
infusion. 
-___ trials: S/p 35 sessions ___ ___
-Suicide attempts: Denies; near attempt in which she sat on 
balcony ledge/wrote note in ___
-Self-injurious behavior: Denies
-Harm to others: Denies
-Trauma: Denies
-Access to weapons: Denies
 
Social History:
___
Family History:
-Psychiatric Diagnoses: Mother and sister with depression, other
distant relatives too
-___ Use Disorders: Denies
-Suicide Attempts/Completed Suicides: Paternal great grandfather
completed suicide
 
Physical Exam:
Admission
VS: T-98.3 BP-97/62  HR-81  RR-16  O2Sat-98   

General: Middle-aged female in NAD. Well-nourished,
well-developed. Appears stated age.
HEENT: Normocephalic, atraumatic. PERRL, EOMI. Oropharynx clear.
Neck: Supple.
Back: No significant deformity.
Lungs: CTA ___. No crackles, wheezes, or rhonchi.
CV: RRR, no murmurs/rubs/gallops. 
Abdomen: +BS, soft, nontender, nondistended. No palpable masses
or organomegaly.
Extremities: No clubbing, cyanosis, or edema.
Skin: No obvious rashes, abrasions, scars, or lesions. 

Neurological:
 Cranial Nerves:
 I: Not tested.
 II: PERRL.
 III, IV, VI: EOMI intact ___ without nystagmus.
 V, VII: Facial strength and sensation intact and symmetric.
 VIII: Hearing intact to finger rub bilaterally.
 IX, X: Palatal elevation symmetrical.
 XI: trapezius normal bilaterally.
 XII: Tongue midline without fasciculations.
 Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength: full power ___ throughout. Coordination:
Normal on finger to nose test. DTRs: patellar reflexes 1+ and
symmetrical. Sensation: Intact to light touch throughout. 
 Gait: Steady. Normal stance and posture. No truncal ataxia.

Neuropsychiatric Examination:
   - Appearance: appears stated age, dressed in hospital gown,
adequate hygiene and grooming
 - Behavior: sitting in armchair with feet drawn up
 - Psychomotor: retarded 
 - Eye contact: downcast, occasional eye contact with 
interviewer
only
 - Speech: fluent, normal tone, rate, decreased prosody 
 - Mood and Affect: "depressed," mood-congruent, dysphoric and
tearful
 - Thought content: suicidal ideation per HPI, no violent
ideation or audiovisual hallucinations reported. 
 - Thought process: linear, coherent, goal directed
 - Judgment and Insight:  fair/fair

  *Cognition:
     *Attention:  attends to interview
     *Orientation:  oriented to self and situation
     *Memory:  intact to personal history both recent and remote
     *Fund of knowledge:  average
     *Speech: Normal rate, tone and volume
     *Language: Fluent

Discharge Exam:
 - Appearance: appears stated age, dressed casual clothes, fair 
hygiene and grooming
 - Behavior: sitting upright in chair
 - Psychomotor: retarded 
 - Eye contact:  fair eye contact, otherwise downcast
 - Speech: fluent, normal tone, rate, decreased prosody 
 - Mood and Affect: "depressed," mood-congruent, dysphoric and 
withdrawn
 - Thought content: denies current suicidal ideation, no violent 
ideation or audiovisual hallucinations reported. 
 - Thought process: linear, coherent, goal directed
 - Judgment and Insight:  fair/fair
 
Pertinent Results:
___ 05:56PM BLOOD WBC-6.1 RBC-4.41 Hgb-14.0 Hct-39.8 MCV-90 
MCH-31.7 MCHC-35.2 RDW-11.4 RDWSD-37.7 Plt ___
___ 05:56PM BLOOD Neuts-59.5 ___ Monos-8.2 Eos-5.2 
Baso-1.3* Im ___ AbsNeut-3.63 AbsLymp-1.56 AbsMono-0.50 
AbsEos-0.32 AbsBaso-0.08
___ 05:56PM BLOOD Glucose-92 UreaN-17 Creat-1.0 Na-142 
K-4.5 Cl-103 HCO3-29 AnGap-10
___ 05:56PM BLOOD ALT-11 AST-13 AlkPhos-77 TotBili-0.2
___ 05:56PM BLOOD Albumin-4.3 Calcium-9.4 Phos-3.5 Mg-2.2
___ 04:00AM BLOOD TSH-2.9
___ 04:00AM BLOOD T3-88 Free T4-1.0
___ 05:56PM BLOOD Lithium-0.5
___ 05:56PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, patient signed a conditional voluntary agreement 
(Section 10 & 11) and that legal status remained in place 
throughout admission.  She was also placed on 15 minute checks 
status on admission and remained on that level of observation 
throughout while being unit restricted.

2. PSYCHIATRIC:
#) Major Depressive Disorder, treatment resistant
Pt presented for initiation of ECT. Given her history and 
treatment failures to
date with worsening suicidal ideation, this is indicated. Her 
exam on presentation was notable for withdrawn and despondent 
affect with frequent tearfulness and behavior of remaining 
curled up in the chair. She was taking several gabaergic 
medicines as well as lithium which has may worsen side effects 
of ECT, so these were held pre-procedure but will be restarted 
prior to discharge. Regarding diagnosis, it seems most likely at 
this time that it is treatment resistant major depressive 
disorder, however an alternative of a mixed-state bipolar 
depressive episode cannot be ruled out. 

She tolerated her first ECT session well, reporting no side 
effects except sore throat d/t NPO status. She had difficulty 
adjusting to the unit and she discussed with her OP providers 
and family about discharging to continue the treatment on an 
outpatient basis. We discussed this plan with the patient and 
her sister who she will be staying with. Pt reported that she 
does not have any thoughts or intention of self harm at this 
time. Sister feels safe in leaving patient alone for short 
periods of time and their mother will be available to help as 
well. Mother will bring pt to ECT and remain with her 
post-procedure. 

Lithium level 0.5mg on day prior to discharge; nortriptyline 
level pending at time of discharge.

.
3. SUBSTANCE USE DISORDERS:
.
Ms. ___ does not have any substance use disorders, and 
therefore did not require any counseling or treatment in this 
regard.
.
4. MEDICAL
Ms. ___ was medically cleared in the ED; no acute  medical 
issues prevented admission to Deac 4. She was medically cleared 
for ECT pre-procedure with full workup including CBC, BMP, EKG. 
In addition, TSH was checked and found to be within normal 
limits. Additionally, Ms. ___ has no chronic medical issues 
requiring attention.
.
5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
Ms. ___  was encouraged to participate in the various 
groups and milieu therapy opportunities offered by the unit.  
The occupational therapy and social work groups focus on 
teaching patients various coping skills. She declined these 
groups during her brief admission, spending much of her time 
with family who visited for many hours with her. She was 
behaviorally appropriate and polite with other patients and 
staff. 
.
#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
Ms. ___ gave verbal and written permission for the team to 
contact her/his outpatient psychiatrist, Dr. ___ 
outpatient therapist.  Both were provided with a summary of Ms. 
___ presentation to the ___ ED/Deac 4 and an update of 
her progress since admission on Deac 4, and they provided 
collateral information and treatment recommendations. 
Additionally, Dr. ___ patient on ___ discussed 
with team patient's preference for discharge following initial 
ECT treatment such that she could receive remaining sessions as 
an outpatient.
.
6. INFORMED CONSENT: 
Medication: lithium
---Intended effects/Benefits: mood stabilization, depression
---Adverse effects/Risks: Drowsiness, nausea, tremor, 
parathyroid, thyroid, nephrotoxicity, worsening of ECT side 
effects
Ms. ___ was informed of alternative treatments, the 
consequences of no treatment, and the expected duration of 
treatment. She appeared to appreciate the information conveyed 
in the consent process by asking appropriate questions, which 
were answered by the treatment team, and expressing 
understanding of the potential risks and benefits (see above).  
Prior to starting treatment, the team also discussed the 
patient's right to decide whether to take this medication as 
well as the importance of the patient's actively participating 
in the treatment.  Ms. ___ understood the above and 
consented to begin the medication.

Medication: lorazepam 
---Intended effects/Benefits: anxiety
---Adverse effects/Risks: Drowsiness, motor uncoordination
Ms. ___ was informed of alternative treatments, the 
consequences of no treatment, and the expected duration of 
treatment. She appeared to appreciate the information conveyed 
in the consent process by asking appropriate questions, which 
were answered by the treatment team, and expressing 
understanding of the potential risks and benefits (see above).  
Prior to starting treatment, the team also discussed the 
patient's right to decide whether to take this medication as 
well as the importance of the patient's actively participating 
in the treatment.  Ms. ___ understood the above and 
consented to begin the medication.

Medication: nortriptyline 
---Intended effects/Benefits: treatment of mood stabilization, 
depression, anxiety
---Adverse effects/Risks: Drowsiness, nausea, QTc prolongation
Ms. ___ was informed of alternative treatments, the 
consequences of no treatment, and the expected duration of 
treatment. She/He appeared to appreciate the information 
conveyed in the consent process by asking appropriate questions, 
which were answered by the treatment team, and expressing 
understanding of the potential risks and benefits (see above).  
Prior to starting treatment, the team also discussed the 
patient's right to decide whether to take this medication as 
well as the importance of the patient's actively participating 
in the treatment.  Ms. ___ understood the above and 
consented to begin the medication.

.
7. RISK ASSESSMENT
On presentation, Ms. ___ was evaluated and felt to be at an 
increased risk of harm to herself. Ms. ___ static risk 
factors noted at that time include chronic mental illness, 
family history of suicide/mental illness, family history of 
suicide attempt, single relationship status, unemployment.  The 
modifiable risk factors identified were as such: suicidal 
ideation with intent and plan, poorly controlled mental illness, 
lack social withdrawal, hopelessness, lack of purpose,decreased 
self-esteem, polarized thinking, closed mindedness, acutely 
stressful events, recent (financial, physical, personal) loss, 
limited coping skills.  These modifiable risk factors were 
addressed with acute stabilization in a safe environment on a 
locked inpatient unit, psychopharmacologic adjustments, 
psychotherapeutic interventions (OT groups, SW groups, 
individual therapy meetings with psychiatrists), and presence on 
a social milieu environment.  Ms. ___ is being discharged 
with many protective factors, including female gender, age,  
sense
of responsibility to family, help-seeking behavior,  strong 
social supports, consistent outpatient follow-up, positive 
therapeutic relationship with outpatient providers, medication 
compliance, no prior suicide attempts/self-injurious behavior, 
no chronic substance use, no access to lethal weapons, pets, 
good reality-testing ability. 

Overall, based on the totality of our assessment at this time, 
Ms. ___ is not at an acutely elevated risk of harm to self 
nor danger to others. She demonstrated preserved capacity to 
engage in meaningful discussion about what she would do if 
thoughts of self-harm or suicide worsened (e.g. patient stated 
that she would tell her sister/family, therapist, or 
psychiatrist), and she would remain forthcoming about severity 
of her symptoms.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 400 mg PO QHS 
2. Lithium Carbonate 300 mg PO QHS 
3. LORazepam 0.5 mg PO BID:PRN anxiety/insomnia 
4. Nortriptyline 75 mg PO QHS 

 
Discharge Medications:
1.  Gabapentin 400 mg PO QHS  
2.  Lithium Carbonate 300 mg PO QHS  
3.  LORazepam 0.5 mg PO BID:PRN anxiety/insomnia 
RX *lorazepam 0.5 mg 1 tab by mouth twice daily as needed Disp 
#*10 Tablet Refills:*0 
4.  Nortriptyline 75 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder, treatment resistant

 
Discharge Condition:
Mental Status: Clear and coherent.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___